US06071928
b) 4-Benzyloxy-2-bromoanisole
To a solution of 4-benzyloxy-2-bromophenol (20 g, 71.6 mmol) in N,N-dimethylformamide (65 ml) was added potassium carbonate (12.4 g, 89.6 mmol) and methyl iodide (12.7 g, 89.6 mmol). The mixture was stirred at room temperature for 18 hours, poured into water (250 ml) and extracted with ethyl acetate (2×100 ml). The organic layer was separated, dried (MgSO4), filtered and concentrated in vacuo to give the title compound (20.15 g, 96%), δH (250 MHz, CDCl3) 3.84 (3H, s, ArOCH3), 4.99 (2H, s, OCH2), 6.80-6.94 (2H, m ArH), 7.21 (1H, d, J 2.75Hz, ArH), 7.28-7.43 (5H, m).

reactant | 4-benzyloxy-2-bromophenol | 71.6 mmol, 20 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)O)Br | C13H11BrO2
reactant | potassium carbonate | 89.6 mmol, 12.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 89.6 mmol, 12.7 g | CI | CH3I
reactant | water | 250 ml | O | H2O
solvent | N,N-dimethylformamide | 65 ml | CN(C=O)C | C3H7NO
product | 4-Benzyloxy-2-bromoanisole | 20.15 g, 96% | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)OC)Br | C14H13BrO2
